US05641430
8.3 g (60 mmols) of potassium carbonate was added to a mixture of 6.8 g (20 mmols) of 4-bromomethyl-1-n-pentyl-1-phenyl-1-silacyclohexane, 3.6 g (20 mmols) of 4-trifluoromethoxyphenol and 50 ml of dimethylformamide (DMF), followed by heating under flux for 10 hours. The reaction mixture was after-treated by a usual manner and purified through chromatography to obtain 6.4 g (yield: 73%) of 4-(4-trifluoromethoxyphenyloxymethyl)-1-n-pentyl-1-phenyl-1-silacyclohexane. The results of IR and NMR analyses are shown below.

reactant | potassium carbonate | 60 mmols, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromomethyl-1-n-pentyl-1-phenyl-1-silacyclohexane | 20 mmols, 6.8 g | BrCC1CC[Si](CC1)(C1=CC=CC=C1)CCCCC | C17H27BrSi
reactant | 4-trifluoromethoxyphenol | 20 mmols, 3.6 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(4-trifluoromethoxyphenyloxymethyl)-1-n-pentyl-1-phenyl-1-silacyclohexane | 6.4 g, yield: 73% | FC(OC1=CC=C(C=C1)OCC1CC[Si](CC1)(C1=CC=CC=C1)CCCCC)(F)F | C24H31F3O2Si
